US05270308
6-Iodo-2,2-dimethyl-3,4-dihydro-2H-1,3-benzoxazin-4-one (compound A-11, 10.0 g), thiophenol (17.2 g), potassium carbonate (10.0 g) and copper powder (1.0 g) were suspended in isoamyl alcohol (100 ml) and the suspension was heated to reflux for 3 hours under Ar. After air cooling, the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was successively washed with an aqueous sodium bicarbonate solution and saturated saline solution, dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography on silica gel eluting with ethyl acetate/hexane (2:1) to obtain 2,2- dimethyl-6-phenylthio-3,4-dihydro-2H-1,3-benzoxazin-4-one (2.67 g) (Compound A-12). The physical properties are shown in Table 1.

reactant | 6-Iodo-2,2-dimethyl-3,4-dihydro-2H-1,3-benzoxazin-4-one | 10.0 g | IC=1C=CC2=C(C(NC(O2)(C)C)=O)C1 | C10H10INO2
reactant | thiophenol | 17.2 g | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | 10.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | isoamyl alcohol | 100 ml | C(CC(C)C)O | C5H12O
catalyst | copper | 1.0 g | [Cu] | Cu
product | 2,2- dimethyl-6-phenylthio-3,4-dihydro-2H-1,3-benzoxazin-4-one | 2.67 g | CC1(OC2=C(C(N1)=O)C=C(C=C2)SC2=CC=CC=C2)C | C16H15NO2S
